US06465508B1
N-(4-Hydroxybutyl)-1-benzofuran-2-carboxamide
2-Benzofurancarboxylic acid (5.0 g, 30.8 mmol) and 4-amino-1-butanol (3.4 ml, 37 mmol) were dissolved in DMF (45 ml). 1-hydroxybenzotriazole (5.0 g, 37 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (7.7 g, 40 mmol), and diisopropylethylamine (10.7 ml, 61.7 mmol) were added sequentially to the solution and allowed to stir at room temperature overnight. After removing excess solvent in vacuo, the residue was taken up in water and the product was extracted into dichloromethane. The organics were combined, washed with brine, dried over Na2SO4, and solvent removed in vacuo to give a solid which was purified by column chromatography (100% ethyl acetate) to give 3.5 g (50% yield) of a white solid. 1H NMR (DMSO-d6): δ1.35-1.62 (m, CH2, CH2), 3.29 (q, CH2), 3.41 (q, CH2), 4.3 (t, NH), 7.78 (d, 1 Ar H), 7.63 (d, 1 Ar H), 7.51 (s, 1 Ar H), 7.46 (t, 1 Ar H), 7.35 (t, 1 Ar H), 8.71 (t, NH) Electrospray Mass Spec: m/z 234.2 (M+H)+.

reactant | 2-Benzofurancarboxylic acid | 30.8 mmol, 5.0 g | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | 4-amino-1-butanol | 37 mmol, 3.4 ml | NCCCCO | C4H11NO
reactant | 1-hydroxybenzotriazole | 37 mmol, 5.0 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 40 mmol, 7.7 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 61.7 mmol, 10.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
product | N-(4-Hydroxybutyl)-1-benzofuran-2-carboxamide | 3.5 g, 50% yield | OCCCCNC(=O)C=1OC2=C(C1)C=CC=C2 | C13H15NO3
